US04280011
1-Benzyloxy-1-n-Butoxy Ethane
A 250 ml. round-bottom flask equipped with a magnetic stirrer, condensor, mantle, and addition funnel was charged with 52.5 g. of benzyl alcohol and 4 drops of 36% hydrochloric acid. The mixture was heated to 40° C. and 50 g. of isobutyl vinyl ether was added dropwise, over a one-half hour period. GLC analysis showed the reaction to be complete at this point. Saturated sodium carbonate solution was added to quench (10 ml.) and the organic phase was dried over sodium sulfate prior to distillation on a concentric tube column:

reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | isobutyl vinyl ether | C(=C)OCC(C)C | C6H12O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | hydrochloric acid | 4 drops | Cl | ClH
product | 1-Benzyloxy-1-n-Butoxy Ethane | C(C1=CC=CC=C1)OC(C)OCCCC | C13H20O2
